US07375126B2
5-tert-butyl-indan-1-one (7.53 g, 40 mmol) was dissolved in methanol (400 ml). Accufluor (32.18 g) was added, and the reaction heated to reflux for 2 hours. After cooling and removing the solvent under vacuum, the residue was taken in methylene chloride and filtered. The filtrate was washed with water, dried with magnesium sulfate, and filtered, and the solvent removed under vacuum to give 5-tert-Butyl-2-fluoro-indan-1-one, which was used without further purification. 1H NMR (300 MHz, CDCl3) 7.73 (d, 1H), 7.48 (d, 1H), 7.45 (s, 1H), 5.18-5.35 (m, 1H), 3.54-3.65 (m, 1H), 3.12-3.29 (m, 1H), 1.36 (s, 9H). MS (CSI) m/e 224 (M+NH4)+

reactant | 5-tert-butyl-indan-1-one | 40 mmol, 7.53 g | C(C)(C)(C)C=1C=C2CCC(C2=CC1)=O | C13H16O
reactant | Accufluor | 32.18 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)O)F
solvent | methanol | 400 ml | CO | CH4O
product | 5-tert-Butyl-2-fluoro-indan-1-one | C(C)(C)(C)C=1C=C2CC(C(C2=CC1)=O)F | C13H15FO
